US06468974B1
(3) Synthesis of Aib-DTrp-DPro-3-methylpiperidinamide (methylpiperidine) (YL-111)
Under N2 atmosphere, the Boc-Aib-DTrp-DPro-3-piperidinamide was dissolved in 25 ml of CH2Cl2 and 10 ml of trifluoracetic acid was added while being stirred. The reaction mixture was stirred for 30 min. All volatiles were removed under vacuum and the residue was dissolved in 30 ml of CH2Cl2 and washed with 10 ml saturated NaCHO3 aqueous solution. The organic layer was removed and the aqueous layer was extracted with CH2Cl2 (3×10 ml). The organic layer was dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuum. The residue was further purified by column chromatography (SiO2, CHCl3/MeOH, 85:15) to afford 0.28 mmol (84.8%) of compound (YL-111) which was characterized by TLC and mass spectra M+=468.6.

reactant | Boc-Aib-DTrp-DPro 3-piperidinamide | N(C(C)(C)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@@H](C(=O)O)CCC1)C(=O)OC(C)(C)C.N1CC(CCC1)C(=O)N
reactant | trifluoracetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | Aib-DTrp-DPro 3-methylpiperidinamide | 0.28 mmol, 84.8% | NC(C)(C)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@@H](C(=O)O)CCC1.CC1CN(CCC1)C(=O)N | InChI=1S/C20H26N4O4.C7H14N2O/c1-20(2,21)19(28)23-15(17(25)24-9-5-8-16(24)18(26)27)10-12-11-22-14-7-4-3-6-13(12)14;1-6-3-2-4-9(5-6)7(8)10/h3-4,6-7,11,15-16,22H,5,8-10,21H2,1-2H3,(H,23,28)(H,26,27);6H,2-5H2,1H3,(H2,8,10)/t15-,16-;/m1./s1
